US05238962
19.1 g (0.1 mol) of 2,4-dichlorobenzoic acid are suspended in 200 ml of methylene chloride and brought into solution by adding 15.3 ml (0.11 mol) of triethylamine. 10 ml (0.1 mol) of ethyl chloroformate are then added dropwise at 0°. After completion of the addition (0.5 hour), the mixture is poured on to ice/water. The methylene chloride phase is separated, dried over magnesium sulfate and concentrated to about 30 ml. This solution is added dropwise at 0° to a solution of 20 ml (0.3 mol) of ethylenediamine in 100 ml of tetrahydrofuran. After completion of the addition (0.5 hour), the mixture is filtered, the filtrate is acidified with dilute hydrochloric acid the neutral constituents are removed by extraction with ethyl acetate. The aqueous phase is made alkaline with sodium hydroxide solution and extracted several times with chloroform. After drying and concentrating the chloroform phases, the residue is converted into the hydrochloride. After recrystallization from ethanol/ether, there are obtained 7.1 g of N-(2-aminoethyl)-2,4-dichlorobenzamide hydrochloride, m.p. 179°-182°.

reactant | 2,4-dichlorobenzoic acid | 0.1 mol, 19.1 g | ClC1=C(C(=O)O)C=CC(=C1)Cl | C7H4Cl2O2
reactant | triethylamine | 0.11 mol, 15.3 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.1 mol, 10 ml | ClC(=O)OCC | C3H5ClO2
reactant | ethylenediamine | 0.3 mol, 20 ml | C(CN)N | C2H8N2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-(2-aminoethyl)-2,4-dichlorobenzamide hydrochloride | 7.1 g | Cl.NCCNC(C1=C(C=C(C=C1)Cl)Cl)=O | InChI=1S/C9H10Cl2N2O.ClH/c10-6-1-2-7(8(11)5-6)9(14)13-4-3-12;/h1-2,5H,3-4,12H2,(H,13,14);1H
